US06946467B2
Alternatively, 1-Boc-4-[2-(4-pyridinyl)ethyl]piperazine (1.0 g, 3.43 mmol) was dissolved in ethyl ether. Ethyl acetate (15 mL) saturated with HCl was added, and the mixture stirred for 30 min at room temperature. The mixture was concentrated under vacuum and provided 1-[2-(4-pyridinyl)ethyl]piperazine hydrochloride (900 mg, 87%) as a tan solid.

reactant | 1-Boc-4-[2-(4-pyridinyl)ethyl]piperazine | 3.43 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1CCN(CC1)CCC1=CC=NC=C1 | C16H25N3O2
reactant | Ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
reactant | HCl | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-[2-(4-pyridinyl)ethyl]piperazine hydrochloride | 900 mg, 87% | Cl.N1=CC=C(C=C1)CCN1CCNCC1 | InChI=1S/C11H17N3.ClH/c1-4-12-5-2-11(1)3-8-14-9-6-13-7-10-14;/h1-2,4-5,13H,3,6-10H2;1H
